US06441017B1
Step A: 8-(tert-Butoxycarbonylamino)-2-naphthol
A mixture of 8-amino-2-naphthol (50.6 g, 0.318 mol) and di-tert-butyl dicarbonate (72.8 g, 0.334 mol) in CH2Cl2 (1.4 L) and THF (1 L) was heated to reflux for 36 hours. The mixture was allowed to cool to ambient temperature, then filtered and concentrated in vacuo. The residue was purified by flash column chromatography on silica, eluting with a gradient of CH2Cl2—0 to 10% EtOAc to yield the desired product as a light brown solid.

reactant | 8-amino-2-naphthol | 0.318 mol, 50.6 g | NC=1C=CC=C2C=CC(=CC12)O | C10H9NO
reactant | di-tert-butyl dicarbonate | 0.334 mol, 72.8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 1.4 L | C(Cl)Cl | CH2Cl2
solvent | THF | 1 L | C1CCOC1 | C4H8O
product | 8-(tert-Butoxycarbonylamino)-2-naphthol | C(C)(C)(C)OC(=O)NC=1C=CC=C2C=CC(=CC12)O | C15H17NO3
